US04695573
1,2,3,4-Tetrahydro-9-(2-trifluoromethylbenzylamino)acridin-1-ol
In 100 ml of dry THF was dissolved 4.31 g of 3,4-dihydro-9-(2-trifluoromethylbenzylamino)acridin-1(2H)-one and the mechanically stirred solution was cooled to 10° C. under nitrogen. To it was added 5.8 ml of 1M LiAlH4 in THF dropwise over 15 minutes. Within 0.5 hour of addition the reaction was complete by TLC, so it was quenched with 1 ml of saturated ammonium chloride and the salts were filtered. The filtrate was evaporated to a solid which was dissolved in dichloromethane. The dichloromethane solution was dried over anhydrous magnesium sulfate and filtered. The filtrate was refluxed and pentane was added to effect crystallization. The crystals were collected from the cooled mother liquor to yield 3.44 g of solid, mp 158°-160° C.

reactant | 3,4-dihydro-9-(2-trifluoromethylbenzylamino)acridin-1(2H)-one | 4.31 g | FC(C1=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=CC=C1)(F)F | C21H17F3N2O
reactant | LiAlH4 | 1M, 5.8 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1,2,3,4-Tetrahydro-9-(2-trifluoromethylbenzylamino)acridin-1-ol | 3.44 g | FC(C1=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)O)C=CC=C1)(F)F | C21H19F3N2O
